US05834401
A solution of ethyl 2-(3-chloropropylamino)isobutyrate (7.5 g) prepared according to Example 3-(1) in toluene (45 mL) was cooled to 0° C. To the solution was added 2-fluoropheyl isocyanate (5 g), and the mixture was stirred overnight at 0° C. to room temperature. Water was added to the reaction solution and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to give 10.9 g of crude ethyl 2-[3-(2-fluorophenyl)-1-(3-chloropropyl)ureido]isobutyrate.

reactant | ethyl 2-(3-chloropropylamino)isobutyrate | 7.5 g | ClCCCNC(C(=O)OCC)(C)C | C9H18ClNO2
reactant | 2-fluoropheyl isocyanate | 5 g | FC1=C(C=CC=C1)N=C=O | C7H4FNO
reactant | Water | O | H2O
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-[3-(2-fluorophenyl)-1-(3-chloropropyl)ureido]isobutyrate | 10.9 g | FC1=C(C=CC=C1)NC(N(CCCCl)C(C(=O)OCC)(C)C)=O | C16H22ClFN2O3
